US09169217B2
Preparation of 4-methoxybenzyl 4-amino-3-chloro-6-(4-chloro-2-fluoro-3-methoxyphenyl)picolinate (Compound 36)
To a solution of 4-amino-3-chloro-6-(4-chloro-2-fluoro-3-methoxyphenyl)picolinic acid (600 mg, 1.81 mmol) in THF (10 mL) was added triphenylphosphine (475 mg, 1.81 mmol), diethyl azodicarboxylate (0.29 mL, 1.81 mmol), and 4-methoxybenzyl alcohol (0.34 mL, 2.72 mmol). The reaction mixture was stirred for 48 h. Additional triphenylphosphine (475 mg, 1.81 mmol) was added to the reaction, and the reaction mixture was stirred for 24 h. The reaction mixture was concentrated to dryness and was purified by silica gel chromatography (eluting with a 0-100% EtOAc/hexane gradient) to provide an off-white solid (170 mg, 26%): mp 73-83° C.; 1H NMR (400 MHz, CDCl3) δ 7.66 (dd, J=8.6, 7.8 Hz, 1H), 7.45-7.38 (m, 2H), 7.22 (dd, J=8.7, 1.8 Hz, 1H), 7.16 (d, J=1.7 Hz, 1H), 6.94-6.87 (m, 2H), 5.38 (s, 2H), 4.80 (s, 2H), 3.96 (d, J=0.8 Hz, 3H), 3.81 (s, 3H); ESIMS m/z 451 ([M+H]+), 449 ([M−H]−).

reactant | 4-amino-3-chloro-6-(4-chloro-2-fluoro-3-methoxyphenyl)picolinic acid | 1.81 mmol, 600 mg | NC1=C(C(=NC(=C1)C1=C(C(=C(C=C1)Cl)OC)F)C(=O)O)Cl | C13H9Cl2FN2O3
reactant | triphenylphosphine | 1.81 mmol, 475 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 1.81 mmol, 0.29 mL | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | 4-methoxybenzyl alcohol | 2.72 mmol, 0.34 mL | COC1=CC=C(CO)C=C1 | C8H10O2
reactant | triphenylphosphine | 1.81 mmol, 475 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 4-methoxybenzyl 4-amino-3-chloro-6-(4-chloro-2-fluoro-3-methoxyphenyl)picolinate | 170 mg, 26% | NC1=C(C(=NC(=C1)C1=C(C(=C(C=C1)Cl)OC)F)C(=O)OCC1=CC=C(C=C1)OC)Cl | C21H17Cl2FN2O4
